* AnalogCoder-Pro p11: a passive high-pass filter
* Source: analogcoder\AnalogCoderPro-master\sample_design\p11\p11.py
* AnalogCoder-Pro type: HighPass
* Inputs: Vin
* Outputs: Vout


Vin Vin 0 1
C1 Vin Vout 10n
R1 Vout 0 10k

.AC DEC 100 1 1G
.END
